US06277991B1
Sodium hydride, 60% (0.156 g, 3.9 mmol) was suspended in dry heptane (5 ml) and stirred under nitrogen for 5 minutes. The solvent was decanted and dry dimethyl formamide (4 ml) was added. 8-Naphthalen-1-ylmethyl-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (1.115 g, 3.0 mmol), dissolved in dry dimethyl formamide (11 ml) was added dropwise under cooling in an ice bath. The mixture was stirred at 0° C. for 1 h. The resulting solution of deprotonated 1-phenyl-8-naphthalen-1-ylmethyl-1,3,8-triazaspiro[4.5]decan-4-one was added dropwise to a stirred solution of 1,7-dibromoheptane (3.88 g, 15 mmol) in dimethyl formamide (3 ml) at room temperature and stirring was continued for 1 h. The mixture was then diluted with water (50 ml) and extracted with ethyl acetate (2×30 ml). The combined organic phases were successively washed with water (2×20 ml) and brine (2×20 ml), dried over MgSO4 and evaporated In vacuo. The residue was dissolved in a mixture of tetrahydrofuran (10 ml) and ether (10 ml) and the hydrochloride was precipitated by the dropwise addition of a solution of hydrogen chloride in ether in excess. The precipitate was washed with a 1:1 mixture of tetrahydrofuran and ether and dried, affording 3-(7-bromo-heptyl)-8-naphthalen-1-ylmethyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one (1.192 g, 68% yield) as a powder.

reactant | Sodium hydride | [H-].[Na+]
reactant | 8-Naphthalen-1-ylmethyl-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 3.0 mmol, 1.115 g | C1(=CC=CC2=CC=CC=C12)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C24H25N3O
reactant | 1-phenyl-8-naphthalen-1-ylmethyl-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2=CC=CC1=CC=CC=C21)=O | C24H25N3O
reactant | 1,7-dibromoheptane | 15 mmol, 3.88 g | BrCCCCCCCBr | C7H14Br2
solvent | heptane | 5 ml | CCCCCCC | C7H16
solvent | dimethyl formamide | 11 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 3-(7-bromo-heptyl)-8-naphthalen-1-ylmethyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | 1.192 g, 68% yield | BrCCCCCCCN1CN(C2(C1=O)CCN(CC2)CC2=CC=CC1=CC=CC=C21)C2=CC=CC=C2 | C31H38BrN3O
